US07598391B2
2-Amino-5-formylthiazole (2.56 g, 20.0 mmol), carbonyldiimidazole (3.25 g, 20.0 mmol) and a catalytic amount of DMAP were heated together in 60 mL THF at 50° C. for 3 h. To this solution was added cycloheptyl-(trans-4-methylcyclohexyl)amine (4.18 g, 20.0 mmol) and the reaction mixture was stirred for an additional 6 h at room temperature. The reaction mixture was concentrated and the crude product was purified by flash chromatography (silica, CH2Cl2-EtOAc, 4:1) to obtain 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (2.3 g, 31% yield).

reactant | 2-Amino-5-formylthiazole | 20.0 mmol, 2.56 g | NC=1SC(=CN1)C=O | C4H4N2OS
reactant | carbonyldiimidazole | 20.0 mmol, 3.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | cycloheptyl-(trans-4-methylcyclohexyl)amine | 20.0 mmol, 4.18 g | C1(CCCCCC1)N[C@@H]1CC[C@H](CC1)C | C14H27N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 2.3 g, 31% yield | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
